US20010018447A1
i) Preparation of 1,3-dihydro-2,2-dioxo-4-chloro-3-methyl-7-amino-2,1-benzisothiazole
To the solution of 1,3-dihydro-2,2-dioxo-4-chloro-3-methyl-7-nitro-2,1-benzisothiazole (50 mg, 0.19 mmol) in ethanol (5 ml), Tin (II) chloride (214 mg, 0.95 inmol) was added. The reaction mixture was stirred at reflux for about 4 hours. Then was cooled to room temperature. NaHCO3 (aqueous) was added to the reaction mixture until pH=7. Then the solution was extracted with ethyl acetate (3x). The combined organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give desired product (32 mg, 72%). EI-MS m/z 233.5 (M+)

reactant | 1,3-dihydro-2,2-dioxo-4-chloro-3-methyl-7-nitro-2,1-benzisothiazole | 0.19 mmol, 50 mg | O=S1(NC2=C(C1C)C(=CC=C2[N+](=O)[O-])Cl)=O | C8H7ClN2O4S
reactant | Tin (II) chloride | 214 mg | [Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-dihydro-2,2-dioxo-4-chloro-3-methyl-7-amino-2,1-benzisothiazole | 32 mg, 72% | O=S1(NC2=C(C1C)C(=CC=C2N)Cl)=O | C8H9ClN2O2S
